US06008243
According to the procedure described in Example 5(a), 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(N-(pyridin-4-yl)carbamoyl)propyl]succinamic acid benzyl ester was hydrogenolyzed in MeOH/EtOAc to provide 35 mg (81%) of 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(N-(pyridin-4-yl)carbamoyl)propyl]succinamic acid as a yellow solid, mp 194-6° C. 1H NMR (CD3OD): δ 8.35 (d, 2H, J=6.5 Hz), 7.95 (d, 2H, J=8.4 Hz), 7.75 (d, 3H, J=8.4 Hz), 7.70-7.52 (m, 6H), 7.28 (t, 1H, J=2.0 Hz), 6.90 (t, 1H, J=2.8 Hz), 6.52 (dd, 1H, J=6.9, 16.8 Hz), 1.20 (s, 9H). IR (KBr): 3400, 2962, 1665, 1606, 1511, 1402 cm-1. HRFABMS: Calculated for C32H34N5O5 (M+H+): 568.2560. Found: 568.2575. Anal. Calculated for C32H33N5O5.0.7 HOAc.0.5 CHCl3 : C, 60.83; H, 5.47; N, 10.46. Found: C, 60.93, H, 5.88; N, 10.19.

reactant | 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(N-(pyridin-4-yl)carbamoyl)propyl]succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC1=CC=NC=C1)=O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(N)=O)=O | C39H39N5O5
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 3(R)-[3-(4'-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(N-(pyridin-4-yl)carbamoyl)propyl]succinamic acid | 35 mg, 81% | C(N)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN(C=C1)[C@H](CC(=O)O)C(=O)N[C@@H](C(C)(C)C)C(NC1=CC=NC=C1)=O | C32H33N5O5
